US08487109B2
N-[2-(3-Diethylamino-prop-1-ynyl)-phenyl]-acetamide
This product was prepared from toluene-4-sulfonic acid 2-acetylamino-phenyl ester and diethyl-prop-2-ynyl-amine following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 8:2; yield (73 mg, 60%); 1H NMR δ (CDCl3): 8.47 (d, J=8.52 Hz, 1H), 7.93 (br s, 1H), 7.36 (dm, 1H), 7.31-7.23 (m, 1H), 7.02 (t, J=7.24 Hz, 1H), 3.54 (s, 2H), 2.62 (q, J=7.13 Hz, 4H), 2.21 (s, 3H), 1.11 (t, J=7.11 Hz, 6H); LCMS m/z: 244.

reactant | toluene-4-sulfonic acid 2-acetylamino-phenyl ester | C(C)(=O)NC1=C(C=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S
reactant | diethyl-prop-2-ynyl-amine | C(C)N(CC#C)CC | C7H13N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | N-[2-(3-Diethylamino-prop-1-ynyl)-phenyl]-acetamide | C(C)N(CC#CC1=C(C=CC=C1)NC(C)=O)CC | C15H20N2O
